US04166813
2,2-Bis[4-{2-benzoyloxy-3-[N-(2-benzoyloxyethyl)-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]propoxy}phenyl]propane (Compound No. 181)
A mixture of 13.6 g of benzoic anhydride and 7.4 g of 2,2-bis[4-{2-hydroxy-3-[N-(2-hydroxyethyl)-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]propoxy}phenyl]propane, obtained as described in Example 17, was heated, with stirring, at 110°-120° C. for 4 hours. At the end of this time, the reaction mixture was dissolved in 200 ml of benzene and the benzene solution was washed, in turn, with a 5% w/w aqueous solution of sodium carbonate and with water; the washed solution was then dried over anhydrous potassium carbonate. The solvent was then removed from the benzene solution by evaporation under reduced pressure and the resulting residue was purified by column chromatography through silica gel eluted with a 20:4:2:1 by volume mixture of ethyl acetate, benzene, ethanol and triethylamine. The desired compound was obtained in the form of a pale yellow, very viscous product having an Rf value of 0.36 on thin layer chromatography on silica gel developed with a 20:4:2:1 by volume mixture of ethyl acetate, benzene, ethanol and triethylamine.

reactant | benzoic anhydride | 13.6 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | 2,2-bis[4-{2-hydroxy-3-[N-(2-hydroxyethyl)-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]propoxy}phenyl]propane | 7.4 g | OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN(CCO)C1CC(NC(C1)(C)C)(C)C)O)CN(C1CC(NC(C1)(C)C)(C)C)CCO | C43H72N4O6
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2,2-Bis[4-{2-benzoyloxy-3-[N-(2-benzoyloxyethyl)-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]propoxy}phenyl]propane | C(C1=CC=CC=C1)(=O)OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN(CCOC(C1=CC=CC=C1)=O)C1CC(NC(C1)(C)C)(C)C)OC(C1=CC=CC=C1)=O)CN(C1CC(NC(C1)(C)C)(C)C)CCOC(C1=CC=CC=C1)=O | C71H88N4O10
